US07001897B2
A solution of [2-(t-butyldiphenylsilyloxy)-1-(t-butyldiphenylsilyloxymethyl)ethyl]carbamic acid benzyl ester (13.6 g, 19.5 mmol) (obtained as described in Reference Example 39(2)) in methanol (410 ml) was subjected to catalytic hydrogenation in the presence of 10% palladium on charcoal (13.6 g) at room temperature for 3.5 hours. After checking the completion of the reaction, the reaction mixture was filtered in order to remove the catalyst and the filtrate concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using methylene chloride:methanol (98:2→9:1) as the eluant to afford 2-(t-butyldiphenylsilyloxy)-1-(t-butyldiphenylsilyloxymethyl)ethylamine (9.34 g, yield 84%) as a colorless oil.

reactant | [2-(t-butyldiphenylsilyloxy)-1-(t-butyldiphenylsilyloxymethyl)ethyl]carbamic acid benzyl ester | 19.5 mmol, 13.6 g | C(C1=CC=CC=C1)OC(NC(CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C43H51NO4Si2
solvent | methanol | 410 ml | CO | CH4O
catalyst | palladium on charcoal | 13.6 g | [Pd] | Pd
product | 2-(t-butyldiphenylsilyloxy)-1-(t-butyldiphenylsilyloxymethyl)ethylamine | 9.34 g, yield 84% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N | C35H45NO2Si2
